US07935721B2
Synthesis of 4′-methyl-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A mixture of 4′-bromo-1′-((5-(trifluoromethyl)furan-2-yl)methyl)-6H-spiro[benzofuro[6,5-d][1,3]dioxole-7,3′-indolin]-2′-one (0.51 g, 1.00 mmol), lithium chloride (0.09 mg, 2.00 mmol), Pd2(dba)3 (0.09 mg, 10 mole %) was flushed with nitrogen. To the above mixture was added anhydrous 1-methyl-2-pyrrolidinone (5.00 mL) and tetramethyltin (0.27 mg, 0.20 mL, 1.50 mmol). The reaction mixture was heated at 60° C. for 16 h and quenched with saturated ammonium chloride (10.0 mL). The reaction mixture was extracted with ethyl acetate (3×10.0 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with ethyl acetate:hexane (20%) to afford the title compound (0.07 g, 16%) as a colorless solid: mp 117-119° C.; 1H NMR (300 MHz, CDCl3) δ 7.18 (t, 1H), 6.82 (t, 2H), 6.72 (d, 1H), 6.47 (s, 1H), 6.37 (d, 1H), 6.09 (s, 1H), 5.86 (d, 2H), 4.95 (ABq, 2H), 4.83 (ABq, 2H), 2.03 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.6, 156.2, 152.0, 149.1, 142.3, 141.3, 135.6, 129.4, 128.9, 126.0, 120.6, 117.2, 112.7, 112.6, 109.2, 106.5, 102.9, 101.6, 93.3, 78.4, 58.3, 37.0, 17.1; MS (ES+) m/z 444.1 (M+1).

reactant | 4′-bromo-1′-((5-(trifluoromethyl)furan-2-yl)methyl)-6H-spiro[benzofuro[6,5-d][1,3]dioxole-7,3′-indolin]-2′-one | 1.00 mmol, 0.51 g | BrC1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)COC=1C3=CC3=C(OCO3)C1 | C22H13BrF3NO5
reactant | lithium chloride | 2.00 mmol, 0.09 mg | [Cl-].[Li+]
reactant | tetramethyltin | 1.50 mmol, 0.20 mL, 0.27 mg | C[Sn](C)(C)C
catalyst | Pd2(dba)3 | 0.09 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1-methyl-2-pyrrolidinone | 5.00 mL | CN1C(CCC1)=O | C5H9NO
product | 4′-methyl-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.07 g, 16% | CC1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)COC=1C3=CC3=C(OCO3)C1 | C23H16F3NO5
